US07199135B2
To a 250-mL RB-flask containing tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,6-dihydro-1(2H)-pyridinecarboxylate (3.09 g, 10.0 mmol), K2CO3 (4.14 g, 30.0 mmol) and PdCl2dppf (419 mg) was added a solution of 2-bromo-4-nitroanisole (2.30 g, 10 mmol) in DMF (10.0 mL) at room temperature under argon. The mixture was heated to 80° C. under argon overnight. After cooled to room temperature, water (500 mL) was added to the mixture. The aqueous layer was extracted with EtOAc (2×200 mL) and the combined organic extracts were dried over K2CO3, filtered and concentrated in vacuo. The crude material was purified on flash chromatography (20% EtOAc/hexane) to give tert-butyl 4-(2-methoxy-5-nitrophenyl)-3,6-dihydro-1(2H)-pyridinecarboxylate (1.51 g, 46%): ESMS m/e: 334.9 (M+H)+.

reactant | tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,6-dihydro-1(2H)-pyridinecarboxylate | 10.0 mmol, 3.09 g | CC1(OB(OC1(C)C)C=1CCN(CC1)C(=O)OC(C)(C)C)C | C16H28BNO4
reactant | K2CO3 | 30.0 mmol, 4.14 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-bromo-4-nitroanisole | 10 mmol, 2.30 g | BrC1=C(C=CC(=C1)[N+](=O)[O-])OC | C7H6BrNO3
reactant | water | 500 mL | O | H2O
solvent | DMF | 10.0 mL | CN(C)C=O | C3H7NO
product | tert-butyl 4-(2-methoxy-5-nitrophenyl)-3,6-dihydro-1(2H)-pyridinecarboxylate | 1.51 g, 46% | COC1=C(C=C(C=C1)[N+](=O)[O-])C=1CCN(CC1)C(=O)OC(C)(C)C | C17H22N2O5
